US05466687
N-(4-Chlorobenzoyl)-4-piperidone
N-cyclohexanecarbonyl-4-piperidone from cyclohexanecarbonyl chloride and 4-piperidone hydrochloride hydrate. Colourless crystals.

reactant | N-cyclohexanecarbonyl-4-piperidone | C1(CCCCC1)C(=O)N1CCC(CC1)=O | C12H19NO2
reactant | cyclohexanecarbonyl chloride | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | 4-piperidone hydrochloride hydrate | O.Cl.N1CCC(CC1)=O
product | N-(4-Chlorobenzoyl)-4-piperidone | ClC1=CC=C(C(=O)N2CCC(CC2)=O)C=C1 | C12H12ClNO2
